US04198527
Using the method of Example 3, the above product is hydrolyzed to 3-phenylthio-2,2-dimethylcyclopropanecarboxylic acid, which is then reacted with m-phenoxybenzyl bromide to yield m-phenoxybenzyl 3-phenylthio-2,2-dimethylcyclopropanecarboxylate.

reactant | 3-phenylthio-2,2-dimethylcyclopropanecarboxylic acid | C1(=CC=CC=C1)SC1C(C1C(=O)O)(C)C | C12H14O2S
reactant | m-phenoxybenzyl bromide | O(C1=CC=CC=C1)C=1C=C(CBr)C=CC1 | C13H11BrO
product | m-phenoxybenzyl 3-phenylthio-2,2-dimethylcyclopropanecarboxylate | C1(=CC=CC=C1)SC1C(C1C(=O)OCC1=CC(=CC=C1)OC1=CC=CC=C1)(C)C | C25H24O3S
